US06638929B2
A solution of 4.7 g (12.0 mmol) of 3-amino-6-benzyloxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester and 2.0 g of 10% Pd/C in 40 mL of DMF and 100 mL of methanol is shaken on Parr shaker at 40 psi for 18 hours. The catalyst is filtered through a pad of Celite, washed with methanol and solvent is evaporated to yield a residue which is dissolved in methylene chloride. This is then filtered through a short pad of Magnesol and washed with methylene chloride and ethyl acetate. The filtrate is evaporated to yield 3.4 g of 3-amino-6-hydroxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester as a yellow solid, mp 262-263° C.

reactant | 3-amino-6-benzyloxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester | 12.0 mmol, 4.7 g | C(C)(C)(C)OC(=O)C1=CC2=CC(=C(C=C2C=C1N)OCC1=CC=CC=C1)OC | C23H25NO4
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | methanol | 100 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | 3-amino-6-hydroxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester | 3.4 g | C(C)(C)(C)OC(=O)C1=CC2=CC(=C(C=C2C=C1N)O)OC | C16H19NO4
